US07494996B2
Preparation of the FMOC-gly-Wang Resin
Wang resin (70 g, 119 mmol, PL-Wang, Polymer Labs, 1.7 mmol/g.) was swollen in 550 mL of methylene chloride and 100 mL of DMF and stirred for 30 min with an overhead stirrer. 71 g (238 mmol) of FMOC-glycine were added, followed by 60 g (476 mmol) of diisopropylcarbodiimide and 2.4 g (19.7 mmol) of 4-dimethylaminopyridine. The reaction was stirred for 3.5 h at room temperature, the resin was filtered, washed with alternating methanol and methylene chloride and dried in a vacuum oven.

reactant | DMF | 100 mL | CN(C)C=O | C3H7NO
reactant | FMOC-glycine | 238 mmol, 71 g | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)NCC(=O)O | C17H15NO4
reactant | diisopropylcarbodiimide | 476 mmol, 60 g | C(C)(C)N=C=NC(C)C | C7H14N2
solvent | methylene chloride | 550 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 19.7 mmol, 2.4 g | CN(C1=CC=NC=C1)C | C7H10N2
product | FMOC-gly-Wang Resin | C1=CC=C2C(=C1)C(C3=CC=CC=C32)COC(=O)NCC=O | C17H15NO3
